US03976643
The free base is prepared by dissolving 1-(2,6-dichlorophenyl)-1-methylguanidine hydrochloride in 10% sodium hydroxide solution and extracting with ether. The ether is dried and evaporated to dryness to obtain 1-(2,6-dichlorophenyl)-1-methylguanidine.

reactant | 1-(2,6-dichlorophenyl)-1-methylguanidine hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)N(C(=N)N)C
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-(2,6-dichlorophenyl)-1-methylguanidine | ClC1=C(C(=CC=C1)Cl)N(C(=N)N)C | C8H9Cl2N3
